US07071182B2
2-(3-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide
According to the procedure for Example 49, 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine and (3-phenoxy-phenyl)-acetic acid were processed to provide the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.82 (m, 2 H), 1.99 (m, 2 H), 3.03 (m, 2 H), 3.51 (m, 2 H), 3.68 (m, 4 H), 4.66 (t, J=6.24 Hz, 2 H), 6.89 (m, 1 H), 7.03 (m, 3 H), 7.12 (m, 3 H), 7.37 (m, 3 H), 7.72 (m, 1 H), 8.08 (s, 1 H), 8.26 (s, 1 H), 9.55 (br s, N H); MS (DCI/NH3) m/z 441 (M+H)+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | (3-phenoxy-phenyl)-acetic acid | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)O | C14H12O3
product | 2-(3-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C27H28N4O2
